US07314888B1
In 9 ml of methylene chloride is dissolved 0.90 g of 3-(3-ethoxy-3-oxopropyl)-4-isopentyloxybenzoic acid. At ambient temperature, 0.31 ml of oxalyl chloride and 20 μl of N,N-dimethylformamide are successively added and the mixture thus obtained is stirred at ambient temperature for one hour. Then, at 5-10° C., 0.78 g of aluminum chloride and 0.78 g of 1,3-diisobutoxybenzene are successively added. The mixture thus obtained is stirred first at the same temperature as above for 30 minutes and then at ambient temperature for 30 minutes. Further, 0.39 g of aluminum chloride is added at ambient temperature and stirred at the same temperature as above for 30 minutes. The reaction mixture is added to a mixture of chloroform and ice water and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=10:1) to obtain 0.67 g of ethyl 3-[5-(2-hydroxy-4-isobutoxybenzoyl)-2-isopentyloxyphenyl]propanoate as a light yellow oily product.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-isopentyloxybenzoic acid | 0.90 g | C(C)OC(CCC=1C=C(C(=O)O)C=CC1OCCC(C)C)=O | C17H24O5
reactant | oxalyl chloride | 0.31 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 0.78 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-diisobutoxybenzene | 0.78 g | C(C(C)C)OC1=CC(=CC=C1)OCC(C)C | C14H22O2
reactant | aluminum chloride | 0.39 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 20 μl | CN(C=O)C | C3H7NO
product | ethyl 3-[5-(2-hydroxy-4-isobutoxybenzoyl)-2-isopentyloxyphenyl]propanoate | 0.67 g | OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)OCC)OCCC(C)C)C=CC(=C1)OCC(C)C | C27H36O6
